US09029536B2
3-[4-(1H-Benzimidazol-2-yloxy)phenyl]-1-ethyl-1H-pyrazolo[4,3-b]pyridine
A mixture of 1-ethyl-3-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1H-pyrazolo[4,3-b]pyridine (510 mg), 6 M HCl aqueous solution (5 mL), and EtOH (5 mL) was refluxed for 2 h. The reaction mixture was poured into 1 M NaOH aqueous solution and extracted with AcOEt. The extract was washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was washed with hexane/AcOEt (1/1) and recrystallized from MeOH to give the title compound (294 mg).

reactant | 1-ethyl-3-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1H-pyrazolo[4,3-b]pyridine | 510 mg | C(C)N1N=C(C2=NC=CC=C21)C2=CC=C(C=C2)OC2=NC1=C(N2COCC[Si](C)(C)C)C=CC=C1 | C27H31N5O2Si
reactant | HCl | 6 M, 5 mL | Cl | ClH
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
product | 3-[4-(1H-Benzimidazol-2-yloxy)phenyl]-1-ethyl-1H-pyrazolo[4,3-b]pyridine | 294 mg | N1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)C2=NN(C=1C2=NC=CC1)CC | C21H17N5O
